US07105532B2
Cyclopropanecarboxylic acid N-[5-(quinolin-3-yl)-1H-pyrazolo[3,4]pyridin-3-yl]amide
Cyclopropane carbonyl chloride (168 mg, 1.602 mmol) was added to a stirred solution of 5-(quinolin-3-yl)-1H-pyrazolo[3,4-c]pyridin-3-ylamine (200 mg, 0.766 mmol) in anhydrous pyridine (5 mL) and the reaction was heated under reflux for 16 hours. The solvent was then removed in vacuo and the residue re-evaporated from water (10 mL) to yield a solid. This was triturated with saturated aqueous sodium bicarbonate solution and the mixture then left to stand for 0.5 hour until the pH stabilised at pH 9–10. The resulting solid was then collected by filtration, washed with water (3×25 mL) and dried in vacuo. This material was then stirred in piperidine (3 mL) at room temperature for 2 hours. The piperidine was evaporated and the residue triturated with water (5 mL) and with methanol (5 mL) to afford the title compound as a solid.

reactant | Cyclopropane carbonyl chloride | 1.602 mmol, 168 mg | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 5-(quinolin-3-yl)-1H-pyrazolo[3,4-c]pyridin-3-ylamine | 0.766 mmol, 200 mg | N1=CC(=CC2=CC=CC=C12)C=1C=C2C(=CN1)NN=C2N | C15H11N5
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | Cyclopropanecarboxylic acid N-[5-(quinolin-3-yl)-1H-pyrazolo[3,4]pyridin-3-yl]amide | N1=CC(=CC2=CC=CC=C12)C1=NC2=C(C=C1)NN=C2NC(=O)C2CC2 | C19H15N5O
